US07919506B2
Step C: Preparation of (2-(cyclohexyl(methoxy)methyl)-5-(trifluoromethyl)phenyl)methanol
To a solution of (2-(cyclohexyl(methoxy)methyl)-5-(trifluoromethyl)benzyloxy)(tert-butyl)dimethylsilane (1.13 g, 2.4 mmol) in THF (5 mL) at room temperature was added TBAF in THF (1.0 M, 4.8 mL, 4.8 mmol). The mixture was stirred at room temperature overnight. Water was added and the mixture was extracted with ethyl acetate. Combined organic layers were washed with brine, dried over sodium sulfate and concentrated in vacuo. The residue was purified by chromatography over 25+M Biotage silica column (eluted with 0-30% ethyl acetate in heptane) to afford the title compound (633.9 mg, 88%). 1H NMR (400 MHz, CDCl3) δ ppm 0.91-1.27 (m, 6H) 1.63-1.70 (m, 3H) 1.72-1.81 (m, 1H) 2.07 (d, J=12.86 Hz, 1H) 2.33-2.42 (m, 1H) 3.18 (s, 3H) 4.10 (d, J=7.88 Hz, 1H) 4.78 (dd, J=5.81, 3.32 Hz, 2H) 7.43 (d, J=7.88 Hz, 1H) 7.55 (d, J=8.30 Hz, 1H) 7.69 (s, 1H).

reactant | (2-(cyclohexyl(methoxy)methyl)-5-(trifluoromethyl)benzyloxy)(tert-butyl)dimethylsilane | 2.4 mmol, 1.13 g | C1(CCCCC1)C(C1=C(CO[Si](C)(C)C(C)(C)C)C=C(C=C1)C(F)(F)F)OC | C22H35F3O2Si
reactant | TBAF | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | Water | O | H2O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 4.8 mmol, 1.0 M, 4.8 mL | C1CCOC1 | C4H8O
product | (2-(cyclohexyl(methoxy)methyl)-5-(trifluoromethyl)phenyl)methanol | 633.9 mg, 88% | C1(CCCCC1)C(C1=C(C=C(C=C1)C(F)(F)F)CO)OC | C16H21F3O2
